US07659296B2
Preparation of 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carboxylic acid amide
2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carboxylic acid (150 mg, 0.343 mmol), DMAP (125 mg, 1.03 mmol) and EDC (99 mg, 0.514 mmol) and aqueous ammonium hydrroxide (1.0 mL, 30%) is reacted analogous to Example 2 to give the title product (10 mg, 7%). MS (ES) m/e: 437.3 (M+1).

reactant | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carboxylic acid | 0.343 mmol, 150 mg | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(N1)C=C(C=C2)C(=O)O)C)=O)(C)C | C26H31NO5
reactant | EDC | 0.514 mmol, 99 mg
reactant | ammonium | [NH4+]
catalyst | DMAP | 1.03 mmol, 125 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 2-{1-[4-(3,3-Dimethyl-2-oxo-butoxy)-3-methyl-phenyl]-1-ethyl-propyl}-benzooxazole-5-carboxylic acid amide | 10 mg, 7% | CC(C(COC1=C(C=C(C=C1)C(CC)(CC)C=1OC2=C(N1)C=C(C=C2)C(=O)N)C)=O)(C)C | C26H32N2O4
